US05532235
4-[([1,1'-Biphenyl]-2-carbonyl)amino]benzoic Acid
A 3.15 g sample of methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoate is refluxed for 8 hours in 100 ml of ethyl alcohol and 2.5 ml of 10N sodium hydroxide. The cooled reaction mixture is acidified with [[? acid]] and the desired product collected and dried to give 2.9 g of the desired product as a solid m.p. 246°-249° C. M+H=318.

reactant | methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoate | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C21H17NO3
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 2.5 ml | [OH-].[Na+]
product | 4-[([1,1'-Biphenyl]-2-carbonyl)amino]benzoic Acid | 2.9 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H15NO3
